US04294960
A solution of 2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetic acid (syn isomer, 1.5 g.), N,N-dimethylformamide (440 mg.) and phosphoryl chloride (920 mg.) in ethyl acetate (12 ml.) and a solution of 4-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate (2.03 g.), trimethylsilylacetamide (7 g.) and bis(trimethylsilyl)acetamide (2 ml.) in ethyl acetate (25 ml.) were treated in a similar manner to that of Example 21-(1) to give 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 2.8 g.), yellow powder.

reactant | 2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetic acid | 1.5 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCCC | C10H13N3O4S
reactant | phosphoryl chloride | 920 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate | 2.03 g | NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H12ClN3O5S
reactant | trimethylsilylacetamide | 7 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 2 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 440 mg | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 2.8 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCCC | C24H23ClN6O8S2
